US06689806B1
Phenyl isothiocyanate (0.45 mL, 3.75 mmol) was added dropwise to a stirred mixture of 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (443 mg, 2.5 mmol) in tetrahydrofuran (5 mL). The mixture was stirred at room temperature for 20 hours and then 70° C. for 8 hours. One mL of dimethylforamide was added to the mixture to make it homogenous and the heating was continued for another 42 hours. The reaction was cooled, poured into 1 N sodium hydroxide solution (100 mL) and extracted with ethyl acetate (200 mL). The organic layer was washed with 1 N hydrochloric acid (100 mL) and brine, dried over anhydrous sodium sulfate and concentrated. The residue was recrystallized from methanol/ethyl acetate/hexane to give 452 mg (58%) of phenyl-thiocarbamic acid O-[2-(2-oxo-2,3-dihydro-1H-indol-4-yl)-ethyl]ester as a white solid.

reactant | Phenyl isothiocyanate | 3.75 mmol, 0.45 mL | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 2.5 mmol, 443 mg | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | dimethylforamide | One mL | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 1 N, 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | phenyl-thiocarbamic acid O-[2-(2-oxo-2,3-dihydro-1H-indol-4-yl)-ethyl]ester | 452 mg, 58% | O=C1NC2=CC=CC(=C2C1)CCOC(NC1=CC=CC=C1)=S | C17H16N2O2S
